US08198287B2
10-azido-10-methyl-2-pyridin-4-yl-7,8,9,10-tetrahydro-6H -pyrimido[1,2-a]azepin-4-one was reduced by using H-Cube™ technology (from THALES Nanotechnology, full H2, Pd/C as catalyst, 1 mL/min and 50° C.). After an acid-basic work-up, (+/−)10-amino-1 0-methyl-2-pyridin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one was obtained and the compound was used as such in the next step.

reactant | 10-azido-10-methyl-2-pyridin-4-yl-7,8,9,10-tetrahydro-6H -pyrimido[1,2-a]azepin-4-one | N(=[N+]=[N-])C1(C=2N(CCCC1)C(C=C(N2)C2=CC=NC=C2)=O)C | C15H16N6O
catalyst | Pd/C | [Pd] | Pd
product | (+/−)10-amino-1 0-methyl-2-pyridin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | NC1(C=2N(CCCC1)C(C=C(N2)C2=CC=NC=C2)=O)C | C15H18N4O
